US07105671B2
A solution of 2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-3-(tetrahydro-furan-2(R)-yl)-propionic acid (67 mg, 0.20 mmol) in methylene chloride (5 mL) was treated with N,N-dimethylformamide (3 drops) and then cooled to 0° C. The reaction mixture was then treated with a 2.0M solution of oxalyl chloride in methylene chloride (0.11 mL, 0.22 mmol). The reaction mixture was stirred at 0° C. for 30 min, allowed to warm to 25° C., and then was concentrated in vacuo to remove solvents and excess oxalyl chloride. The resulting residue was re-dissolved in dry tetrahydrofuran (5 mL) and was treated dropwise with a solution of 2-aminopyrazine (57 mg, 0.60 mmol) in tetrahydrofuran (2 mL) and pyridine (0.065 mL, 0.80 mmol). The resulting reaction mixture was stirred at 25° C. for 1.5 h. The reaction mixture was then diluted with water (50 mL) and extracted with methylene chloride (3×50 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 12M, Silica, 1/1 hexanes/ethyl acetate) afforded 2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-N-pyrazin-2-yl-3-(tetrahydro-furan-2(R)-yl)-propionamide (51 mg, 61%) as a colorless gum: EI-HRMS m/e calcd for C19H20F3N3O2S (M)+ 411.1228, found 411.1229.

reactant | 2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-3-(tetrahydro-furan-2(R)-yl)-propionic acid | 0.20 mmol, 67 mg | CSC1=C(C=C(C=C1)C(C(=O)O)C[C@@H]1OCCC1)C(F)(F)F | C15H17F3O3S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminopyrazine | 0.60 mmol, 57 mg | NC1=NC=CN=C1 | C4H5N3
reactant | pyridine | 0.80 mmol, 0.065 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | methylene chloride | 0.22 mmol, 0.11 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-N-pyrazin-2-yl-3-(tetrahydro-furan-2(R)-yl)-propionamide | 51 mg, 61% | CSC1=C(C=C(C=C1)C(C(=O)NC1=NC=CN=C1)C[C@@H]1OCCC1)C(F)(F)F | C19H20F3N3O2S
